US04371531
A solution of 7-amino-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.57 g.) and trimethylsilylacetamide (4.6 g.) in ethyl acetate (20 ml.) and a mixture of 2-(2,3-dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetic acid (syn isomer, 1.1 g.), N,N-dimethylformamide (0.44 g.) and phosphoryl chloride (0.92 g.) were treated in a similar manner to that of Example 21 to give 7-[2-(2,3-dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetamido]-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 1.85 g.).

reactant | 7-amino-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.57 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NN2)C(=O)O)C1=O | C10H11N5O3S2
reactant | trimethylsilylacetamide | 4.6 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 2-(2,3-dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetic acid | 1.1 g | S1CCSC(=C1)C(C(=O)O)=NOC | C7H9NO3S2
reactant | phosphoryl chloride | 0.92 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 0.44 g | CN(C=O)C | C3H7NO
product | 7-[2-(2,3-dihydro-1,4-dithiin-5-yl)-2-methoxyiminoacetamido]-3-(1H-1,2,3-triazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.85 g | S1CCSC(=C1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=CN=NN2)C(=O)O)C1=O)=NOC | C17H18N6O5S4
